US06242443B1
6-Chloro-3-cyclohexylmethylamino-4H-1,2,4-benzothiadiazine 1,1-dioxide
A mixture of 2-amino-4-chlorobenzenesulfonamide (2.1 g, 10.16 mmol) and cyclohexylmethyl isothiocyanate (6.31 g, 40.6 mmol) was heated at 150° C. for 4 h. The mixture was allowed to cool and then stirred with 25 ml of ethyl acetate for 1 h. The precipitate was isolated by filtration and recrystallised from ethanol to give 867 mg (26%) of the title compound; m.p. 317-323° C.; 1H-NMR (DMSO-d6): δ 0.8-1.8 (m, 11H, cyclohexyl), 3.08 (t, 2H, CH2), 7.78 (m, 3H, ArH+NH), 7.68 (d, 1H, ArH), 10.52 (br.s, 1H, NH); MS: m/e 327/329 (M+); (C14H18N3Cl1O2S1) calc. C, 51.29; H, 5.53; N, 12.82; found C, 51.21; H, 5.72; N, 12.81.

reactant | 2-amino-4-chlorobenzenesulfonamide | 10.16 mmol, 2.1 g | NC1=C(C=CC(=C1)Cl)S(=O)(=O)N | C6H7ClN2O2S
reactant | cyclohexylmethyl isothiocyanate | 40.6 mmol, 6.31 g | C1(CCCCC1)CN=C=S | C8H13NS
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 6-Chloro-3-cyclohexylmethylamino-4H-1,2,4-benzothiadiazine 1,1-dioxide | 867 mg, 26% | ClC=1C=CC2=C(NC(=NS2(=O)=O)NCC2CCCCC2)C1 | C14H18ClN3O2S
